US09416111B2
A mixture of methyl trans-4-{[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl][(methylsulfonyl)oxy]methyl}cyclohexanecarboxylate (100 mg, 0.18 mmol) and palladium on carbon (10 mg, 10 wt %) in THF (10 mL) was stirred under a hydrogen atmosphere (45 psi) at 40° C. for 48 hours. The reaction mixture was then filtrated and concentrated under reduced pressure. The residue was purified by prep-TLC (ethyl acetate/petroleum ether) to give methyl trans-4-{[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]methyl}cyclohexanecarboxylate. MS ESI calc'd for C25H28F2N5O2[M+H]+ 468. found 468. 1H NMR: (400 MHz, CD3OD) δ 8.99 (s, 2H), 8.65 (d, J=4.8 Hz, 1H), 8.02 (s, 1H), 7.62 (s, 1H), 7.22 (s, 1H), 7.06 (d, J=4.8 Hz, 1H), 6.60 (t, J=54.4 Hz, 1H), 3.66 (s, 3H), 2.89 (t, J=7.2 Hz, 2H), 2.45 (s, 3H), 2.33-2.30 (m, 1H), 2.01-1.97 (m, 3H), 1.81-1.79 (m, 2H), 1.48-1.41 (m, 2H), 1.19-1.17 (m, 2H).

reactant | methyl trans-4-{[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl][(methylsulfonyl)oxy]methyl}cyclohexanecarboxylate | 0.18 mmol, 100 mg | FC(C1=NC(=NC=C1)NC=1C=C(C=C(C1)C)C=1C=NC(=NC1)C([C@@H]1CC[C@H](CC1)C(=O)OC)OS(=O)(=O)C)F | C26H29F2N5O5S
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | methyl trans-4-{[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]methyl}cyclohexanecarboxylate | FC(C1=NC(=NC=C1)NC=1C=C(C=C(C1)C)C=1C=NC(=NC1)C[C@@H]1CC[C@H](CC1)C(=O)OC)F | C25H27F2N5O2
